US05371230
4-(5-Octyl-2-pyridyl)phenol (0.5 g), 0.2 g of heptanoic acid and 0.04 g 4-(dimethylamino)pyridine were dissolved in 50 ml of dichloromethane and the solution was treated portion wise with 0.4 g of N,N'-dicyclohexylcarbodiimide within 10 minutes while stirring. The mixture was stirred at room temperature overnight and then filtered. The filtrate was diluted with dichloromethane, washed twice with 50 ml of saturated sodium carbonate solution each time and then with water, dried over magnesium sulphate, filtered and subsequently concentrated. The crude product obtained was purified by chromatography on silica gel with toluene. Recrystallization from ethanol gave 0.4 g of 4-(5-octyl-2-pyridyl)phenyl heptanoate with a m.p. (C--S) 57° C. and cl.p. (S--I) 77° C.

reactant | 4-(5-Octyl-2-pyridyl)phenol | 0.5 g | C(CCCCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)O | C19H25NO
reactant | heptanoic acid | 0.2 g | C(CCCCCC)(=O)O | C7H14O2
reactant | N,N'-dicyclohexylcarbodiimide | 0.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethylamino)pyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(5-octyl-2-pyridyl)phenyl heptanoate | 0.4 g | C(CCCCCC)(=O)OC1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC | C26H37NO2
